US04080323
8-Chloro-4,6-dihydro-6-phenyl-5-oxo-1,N,N-trimethyl-5H-imidazo [1,5-a][1,5]benzodiazepin-3-carboxamide
A mixture of 1.2 g of methyl 8-chloro-4,6-dihydro-1-methyl-6-phenyl-5-oxo-5H-imidazo[1,5-a][1,5]benzodiazepin-3-carboxylate, 2 g of lithium chloride and 12 ml of hexamethyl phosphoric triamide was stirred and heated up to 230°. As soon as this temperature was reached, the reaction mixture was cooled and partitioned between methylene chloride and water. The organic phase was washed with water, dried over sodium sulfate and evaporated. Crystallization of the residue from ether yielded the end product which was recrystallized from ethyl acetate/hexane for analysis, mp 213°-215°.

reactant | methyl 8-chloro-4,6-dihydro-1-methyl-6-phenyl-5-oxo-5H-imidazo[1,5-a][1,5]benzodiazepin-3-carboxylate | 1.2 g | ClC=1C=CC2=C(N(C(CC=3N2C(=NC3C(=O)OC)C)=O)C3=CC=CC=C3)C1 | C20H16ClN3O3
reactant | lithium chloride | 2 g | [Cl-].[Li+]
reactant | hexamethyl phosphoric triamide | 12 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 8-Chloro-4,6-dihydro-6-phenyl-5-oxo-1,N,N-trimethyl-5H-imidazo [1,5-a][1,5]benzodiazepin-3-carboxamide | ClC=1C=CC2=C(N(C(CC=3N2C(=NC3C(=O)N(C)C)C)=O)C3=CC=CC=C3)C1 | C21H19ClN4O2
